US08536214B2
c) N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
At 0° C. lithium aluminium hydride (2.102 mL, 5.04 mmol) was added dropwise to a stirred solution of methyl 1-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate (1 g, 3.36 mmol) in tetrahydrofuran (dry) (25 mL). Mixture warmed to rt and stirred for 4 hr. After this time the reaction mixture was again cooled to 0° C. and more lithium aluminium hydride (2.102 mL, 5.04 mmol) added and the whole stirred at room temperature for 30 min before being carefully quenched with H2O (10 mL) and 2N NaOH (10 mL). The resulting mixture was filtered and partitioned between EtOAc and brine. The organic layer was separated, dried on Na2SO4 and solvent evaporated in vacuo to give a dark yellow oil. Purification by flash chromatography (0-100% EtOAc in Hept.) afforded the title compound as a colourless oil (670 mg 2.5 mmol, 74%). MS (ESI): m/z [M−H]− 268.0.

reactant | lithium aluminium hydride | 5.04 mmol, 2.102 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 1-(1-methylethylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | 3.36 mmol, 1 g | CC(C)S(=O)(=O)NC1CCC2=CC(=CC=C12)C(=O)OC | C14H19NO4S
reactant | lithium aluminium hydride | 5.04 mmol, 2.102 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 2.5 mmol, 670 mg, 74% | OCC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C13H19NO3S
